US07259183B2
Preparation of 1H-Indole-7-carboxylic acid (4-tert-butyl-2-methoxy-benzyl)-[2-(4-fluoro-phenyl)-ethyl]-amide 123
133 mg (0.3 mmol) of 1H-indole-7-carboxylic acid (4-tert-butyl-2-hydroxy-benzyl)-[2-(4-fluoro-phenyl)-ethyl]-amide, 64 mg (0.45 mmol) of methyl iodide and 83 mg (0.6 mmol) of potassium carbonate were heated in 3 ml acetonitrile for 2 h to 60° C. Additional 32 mg (0.22 mmol) of methyl iodide were added and the reaction mixture was heated to 60° C. over night. The reaction mixture was filtered and the solvent was evaporated. The residue was purified by column chromatography (20 g silica gel; DCM/diethyl ether 10:1) to yield 54 mg (39%) product as a colorless gum. MS (ISP) 459.6 (M+H)+.

reactant | 1H-indole-7-carboxylic acid (4-tert-butyl-2-hydroxy-benzyl)-[2-(4-fluoro-phenyl)-ethyl]-amide | 0.3 mmol, 133 mg | C(C)(C)(C)C1=CC(=C(CN(C(=O)C=2C=CC=C3C=CNC23)CCC2=CC=C(C=C2)F)C=C1)O | C28H29FN2O2
reactant | methyl iodide | 0.45 mmol, 64 mg | CI | CH3I
reactant | potassium carbonate | 0.6 mmol, 83 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.22 mmol, 32 mg | CI | CH3I
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 1H-Indole-7-carboxylic acid (4-tert-butyl-2-methoxy-benzyl)-[2-(4-fluoro-phenyl)-ethyl]-amide | 54 mg, 39% | C(C)(C)(C)C1=CC(=C(CN(C(=O)C=2C=CC=C3C=CNC23)CCC2=CC=C(C=C2)F)C=C1)OC | C29H31FN2O2
